US05932595
Trifluoroacetic acid (10 ml) was added to 4-tert-butoxycarbonyl-methylene-N-CBZ-piperidine (20 g, 60.3 mmol) in methylene chloride (30 ml) and the solution was stirred at room temperature for 1.5 hours. After evaporation of the solvent, the residue was triturated with diethyl ether to give 4-carboxymethylene-N-CBZ-piperidine as a crystalline white solid.

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-tert-butoxycarbonyl-methylene-N-CBZ-piperidine | 60.3 mmol, 20 g | C(C)(C)(C)OC(=O)C1CC(N(CC1)C(=O)OCC1=CC=CC=C1)=C | C19H25NO4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-carboxymethylene-N-CBZ-piperidine | C(=O)(O)C=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H17NO4
